US04443443
A mixture of 1-[2-(4-methyl-1-piperazinyl)ethyl]-5 benzylthio-1H-tetrazole (5.4 g), acetic acid (40 ml) and conc. hydrobromic acid (40 ml) was heated at 70° to 80° C. for 8 hours. After the concentration of the reaction mixture, the concentrate was diluted with water. The mixture was washed with diethyl ether twice and evaporated under reduced pressure. The residue was recrystallized from methanol. A solution of the obtained crystals in a little amounted of water was adjusted to pH 6.0 with 1 N aqueous solution of potassium hydroxide., washed with ethyl acetate and then evaporated under reduced pressure. To the residue was added hot ethanol and insoluble materials were filtered out. The filtrate was cooled and the precipitated crystals were collected by filtration to give 1-[2-(4-methyl-1-piperazinyl)ethyl]-1H-tetrazole-5-thiol hydrobromide (1.1 g), mp 216° to 222° C.

reactant | 1-[2-(4-methyl-1-piperazinyl)ethyl]-5 benzylthio-1H-tetrazole | 5.4 g | CN1CCN(CC1)CCN1N=NN=C1SCC1=CC=CC=C1 | C15H22N6S
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 40 ml | Br | BrH
solvent | water | O | H2O
product | 1-[2-(4-methyl-1-piperazinyl)ethyl]-1H-tetrazole-5-thiol hydrobromide | 1.1 g | Br.CN1CCN(CC1)CCN1N=NN=C1S | InChI=1S/C8H16N6S.BrH/c1-12-2-4-13(5-3-12)6-7-14-8(15)9-10-11-14;/h2-7H2,1H3,(H,9,11,15);1H
